US07932259B2
A mixture of the crude trifluoromethanesulfonic acid 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester (20.5 g), ethyl isonipecotate (74.4 g) and N,N-diisopropylethylamine (12.2 g) was heated at 150-170° C. for 1 hour. To the reaction mixture, water was added and extracted with ethyl acetate. The organic layer was washed with water, and brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: hexane/ethyl acetate=5:1) to give 1-[1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidine-4-carboxylic acid ethyl ester (16.6 g) as a pale yellow solid.

reactant | trifluoromethanesulfonic acid 1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl ester | 20.5 g | ClC1=CC(=C(C(=C1)C)N1C=C(C=2C1=NC(=CC2OS(=O)(=O)C(F)(F)F)C)C)C | C18H16ClF3N2O3S
reactant | ethyl isonipecotate | 74.4 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | N,N-diisopropylethylamine | 12.2 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water | O | H2O
product | 1-[1-(4-chloro-2,6-dimethylphenyl)-3,6-dimethyl-1H-pyrrolo[2,3-b]pyridin-4-yl]piperidine-4-carboxylic acid ethyl ester | 16.6 g | C(C)OC(=O)C1CCN(CC1)C1=C2C(=NC(=C1)C)N(C=C2C)C2=C(C=C(C=C2C)Cl)C | C25H30ClN3O2
